US04470989
1.9 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine hydrochloride
2.3 g of 2-bromomethyl-1,4-benzodioxane, 2.2 g of 4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine, 1.4 ml of triethylamine and 0.3 g of sodium iodide were stirred in 25 ml of dry dimethylformamide at room temperature for 60 hours and the mixture was then poured onto water; diisopropyl ether was added and the mixture was stirred vigorously for 2 hours. The product which had precipitated was filtered off with suction, washed with water and diisopropyl ether and dried; the free base thus obtained has a melting point of 226°-228° C.

reactant | 2-bromomethyl-1,4-benzodioxane | 2.3 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | 4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine | 2.2 g | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium iodide | 0.3 g | [I-].[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine hydrochloride | Cl.O1C(COC2=C1C=CC=C2)CN2CCC(CC2)N2C(NC1=C2C=CC(=C1)Cl)=O | InChI=1S/C21H22ClN3O3.ClH/c22-14-5-6-18-17(11-14)23-21(26)25(18)15-7-9-24(10-8-15)12-16-13-27-19-3-1-2-4-20(19)28-16;/h1-6,11,15-16H,7-10,12-13H2,(H,23,26);1H
